US07838543B2
Step 1. 5-Nitro-3H-benzooxazole-2-thione
Combine 2-amino-4-nitrophenol (15.8 g, 102 mmol) and potassium xanthate (18.2 g, 114 mmol) in pyridine (200 mL). Reflux for 1 hour and then cool to room temperature. Pour the reaction into concentrated HCl (100 mL) and ice. Filter and wash the product with 1 N HCl to remove excess pyridine. Dry in a vacuum oven at 50° C. for 48 h to afford the title compound (15.9 g, 79%). 1H NMR (400 MHz, DMSO-d6): δ 8.18 (dd, 1H, J=8.8, 2.2 Hz), 7.93 (d, 1H, J=2.2 Hz), 7.73 (d, 1H, J=8.8 Hz).

reactant | 2-amino-4-nitrophenol | 102 mmol, 15.8 g | NC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H6N2O3
reactant | potassium xanthate | 114 mmol, 18.2 g | CCOC(=S)[S-].[K+]
reactant | HCl | 100 mL | Cl | ClH
solvent | pyridine | 200 mL | N1=CC=CC=C1 | C5H5N
product | 5-Nitro-3H-benzooxazole-2-thione | 15.9 g, 79% | [N+](=O)([O-])C=1C=CC2=C(NC(O2)=S)C1 | C7H4N2O3S
